US08236826B2
Production of 3,4-dichloro-N-{6-[4-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)phenoxy]pyridin-3-yl}benzamide
To uracil (200 mg, 1.8 mmol) was added hexamethyldisilazane (5 mL), and the resulting solution was stirred for 5.5 hours at 150° C. Insoluble matter was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was dissolved in a solution of acetonitrile (10 mL)-THF (5 mL), and to this solution were added 3,4-dichloro-N-[6-(4-chloromethylphenoxy)pyridin-3-yl]benzamide (500 mg, 1.2 mmol) and tin tetrachloride (3 drops). The resulting solution was refluxed for 2.5 hours. To this reaction solution was added methanol (1 mL), and the resulting solution was stirred for 30 minutes at room temperature. The resulting reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol:chloroform=1:99→3:97), to thereby yield 20 mg of the title compound.

reactant | uracil | 1.8 mmol, 200 mg | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | hexamethyldisilazane | 5 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 3,4-dichloro-N-[6-(4-chloromethylphenoxy)pyridin-3-yl]benzamide | 1.2 mmol, 500 mg | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CCl)C=CC1Cl | C19H13Cl3N2O2
catalyst | tin tetrachloride | 3 drops | [Sn](Cl)(Cl)(Cl)Cl
solvent | methanol | 1 mL | CO | CH4O
product | 3,4-dichloro-N-{6-[4-(2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)phenoxy]pyridin-3-yl}benzamide | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)CN2C(NC(C=C2)=O)=O)C=CC1Cl | C23H16Cl2N4O4
